US08003226B2
1.00 g of N-ethyl-3-bromocarbazole was dissolved in 3.2 ml of dehydrated ether in a Schrenck tube which was flame-dried and argon gas-replaced. This solution was cooled to −78° C., and 2.4 ml of n-butyl lithium (2.64M hexane solution) was added dropwise. After raising the temperature to 0° C. and stirring for 1 hour, it was cooled again to −78° C., an ether solution of magnesium bromide prepared from magnesium 0.4 g and 1,2-dibromoethane 0.8 g was added dropwise. After raising the temperature to room temperature and stirring for 12 hours, this reaction solution was added dropwise into a solution which was prepared by suspending lithium bromide 0.28 g, 3-trifluoromethanesulfoxybromo benzene 0.82 g, and dichloro[1,3-bis(diphenylphosphino)propane]palladium(II) 0.09 g in dehydrated diethylether 2 ml, and cooled at 0° C. After stirring for 7 hours, 20 ml water was added dropwise and partitioned. The aqueous phase was extracted twice with 40 ml toluene, and the combined aqueous phase was washed with water and saturated NaCl aqueous solution, then concentrated, and 1.61 g of crude product was obtained. It was purified with silica gel column chromatography (eluent, hexane:ethyl-acetate=25:1), 0.33 g of N-ethyl-3-(3-bromophenyl)carbazole was obtained.

reactant | N-ethyl-3-bromocarbazole | 1.00 g | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)Br | C14H12BrN
reactant | lithium bromide | 0.28 g | [Br-].[Li+]
reactant | benzene | 0.82 g | C1=CC=CC=C1 | C6H6
reactant | water | 20 ml | O | H2O
solvent | ether | 3.2 ml | CCOCC | C4H10O
solvent | diethylether | 2 ml | C(C)OCC | C4H10O
catalyst | dichloro[1,3-bis(diphenylphosphino)propane]palladium(II) | 0.09 g | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Pd]Cl
product | N-ethyl-3-(3-bromophenyl)carbazole | 0.33 g | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=CC(=CC=C1)Br | C20H16BrN
